US05981525
(2Z,4E)-N-Butyl-5-(2-indolyl)-2-methoxy-2,4-pentadienamide.
A 2M solution of trimethylaluminium in toluene (0.4 ml) was added at room temperature under nitrogen to a solution of butylamine (0.04 ml, 0.39 mmol) in dichloromethane (10 ml). Stirring was continued for 30 minutes and methyl (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4-pentadienoate (0.1 g, 0.39 mmol) was added. The solution was refluxed for 5 hours; after cooling to 10° C., the reaction was quenched with 10% HCl and the separated organic layer was washed with a saturated solution of NaHCO3 and water, dried over Na2SO4 and evaporated under vacuum. The solid residue was triturated with isopropyl ether, to give 55 mg (47.3%) of the title compound as a solid, m.p.=185-186° C.

reactant | trimethylaluminium | C[Al](C)C
reactant | butylamine | 0.39 mmol, 0.04 ml | C(CCC)N | C4H11N
reactant | methyl (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4-pentadienoate | 0.39 mmol, 0.1 g | N1C(=CC2=CC=CC=C12)/C=C/C=C(/C(=O)OC)\OC | C15H15NO3
solvent | toluene | 0.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2Z,4E)-N-Butyl-5-(2-indolyl)-2-methoxy-2,4-pentadienamide | 55 mg, 47.3% | C(CCC)NC(/C(=C/C=C/C=1NC2=CC=CC=C2C1)/OC)=O | C18H22N2O2
